US03962224
A solution of diphenyl aminomethylphosphonate (102.8 g) and benzaldehyde (41.6 g) in benzene (1000 ml) is heated at reflux in a Dean-Stark apparatus until water separation ceases. The resulting solution is evaporated under reduced pressure to yield diphenyl N-benzylideneaminomethylphosphonate.

reactant | diphenyl aminomethylphosphonate | 102.8 g | NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H14NO3P
reactant | benzaldehyde | 41.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
solvent | benzene | 1000 ml | C1=CC=CC=C1 | C6H6
product | diphenyl N-benzylideneaminomethylphosphonate | C(C1=CC=CC=C1)=NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C20H18NO3P
